US06743794B2
N-{(1S,3R)-3-[(phenylcarbonylamino)methyl]cyclohexyl}[3-(2-fluoro-3-iodophenyl)-5-methylisoxazol-4-yl]carboxamide
In a fashion similar to that described for preparation 108, a compound from preparation 105(0.1 g, 0.3 mmol), TFA (2 mL), dichloro-methane (1.5 mL), EDCI (0.086 g, 0.45 mmol), DMAP (0.007 g, 0.06 mmol), 3-(2-fluoro-3-iodo-phenyl)-5-methyl-isoxazole-4-carboxylic acid (0.125 g, 0.36 mmol), and dichloromethane (1.5 mL) gave the title compound (0.104 g, 62%) after column chromatography (silica gel, acetone/dichloromethane gradient). Mass Spectrum (FIA) (m/z) 562.1 [M+1].

reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | dichloro-methane | 1.5 mL | ClCCl | CH2Cl2
reactant | EDCI | 0.45 mmol, 0.086 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | 3-(2-fluoro-3-iodo-phenyl)-5-methyl-isoxazole-4-carboxylic acid | 0.36 mmol, 0.125 g | FC1=C(C=CC=C1I)C1=NOC(=C1C(=O)O)C | C11H7FINO3
reactant | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
catalyst | DMAP | 0.06 mmol, 0.007 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | acetone dichloromethane | CC(=O)C.ClCCl
product | N-{(1S,3R)-3-[(phenylcarbonylamino)methyl]cyclohexyl}[3-(2-fluoro-3-iodophenyl)-5-methylisoxazol-4-yl]carboxamide | 0.104 g, 62% | C1(=CC=CC=C1)C(=O)NC[C@H]1C[C@H](CCC1)NC(=O)C=1C(=NOC1C)C1=C(C(=CC=C1)I)F | C25H25FIN3O3
